US05891899
vii) 2-Amino-3-(9H-xanthen-9-yl)-2-(4-phosphonophenyl)propanoic acid
To a suspension of 2-amino-3-(9H-xanthen-9-yl)-2-(4-diethylphosphonophenyl)propanoic acid (114 mg, 0.25 mmol) in dry dichloromethane (10 ml) stirred under an atmosphere of nitrogen was added trimethylsilyl iodide (0.26 g, 1.29 mmol). The resulting solution was stirred at room temperature for 24 h and then further trimethylsilyl iodide (0.26 g, 1.29 ml) added. Stirring was continued for 5 h, the reaction mixture evaporated to dryness and redissolved in water. Ion exchange chromatography using the conditions described in Example 1 (vi) gave the title compound as a pale yellow powder.

reactant | 2-amino-3-(9H-xanthen-9-yl)-2-(4-diethylphosphonophenyl)propanoic acid | 0.25 mmol, 114 mg | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC=C(C=C1)P(=O)(OCC)OCC | C26H28NO6P
reactant | trimethylsilyl iodide | 1.29 mmol, 0.26 g | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 1.29 ml, 0.26 g | C[Si](C)(C)I | C3H9ISi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Amino-3-(9H-xanthen-9-yl)-2-(4-phosphonophenyl)propanoic acid | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC=C(C=C1)P(=O)(O)O | C22H20NO6P
